US04061655
A slurry of 3,6-dibromocarbazole (33.3 g) and cuprous cyanide (39 g) in 50 ml of dimethylformamide is heated at 160° C for seven days. The reaction mixture is poured into 1 liter of aqueous ethylenediamine (20%, v/v) and the mixture is stirred for fifteen minutes and filtered. The precipitate is slurried in 1 liter of aqueous ethylenediamine (20%, v/v) and stirred for about 16 hours. The precipitate is collected by filtration and recrystallized from dimethylformamide to yield 15 g of 3,6-dicyanocarbazole, melting point 360° C.

reactant | 3,6-dibromocarbazole | 33.3 g | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | ethylenediamine | 1 liter | C(CN)N | C2H8N2
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3,6-dicyanocarbazole | 15 g | C(#N)C=1C=CC=2NC3=CC=C(C=C3C2C1)C#N | C14H7N3
